US06515179B2
2-Nitrobenzenesulfonyl chloride (5.79 g) was added to a mixed solution of tetrahydrofuran (20 ml)/water (17 ml) containing (S)-proline (2.00 g), 5 N sodium hydroxide (3.5 ml) and sodium carbonate (3.77 g) under ice cooling, followed by stirring for 1 hour under ice cooling and for 22 hours at room temperature. Water (20 ml) was added to the reaction mixture, and the organic solvent was removed by evaporation under reduced pressure. Then, water (20 ml), 5 N sodium hydroxide (4 ml) and ethyl acetate (100 ml) were added, followed by extraction and solution separation, and the organic layer was extracted again with water (15 ml). Ethyl acetate (50 ml) and 6 N hydrochloric acid (20 ml) were added to the resulting aqueous layer, followed by extraction and solution separation, and the aqueous layer was extracted again with ethyl acetate (50 ml). The resulting organic layer was dried over sodium sulfate, filtered, concentrated and dried under vacuum to obtain (S)-N-(2-nitrobenzenesulfonyl)proline (5.53 g; yield: quantitative).

reactant | 2-Nitrobenzenesulfonyl chloride | 5.79 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | (S)-proline | 2.00 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium hydroxide | 5 N, 3.5 ml | [OH-].[Na+]
reactant | sodium carbonate | 3.77 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | Water | 20 ml | O | H2O
solvent | water | 17 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (S)-N-(2-nitrobenzenesulfonyl)proline | 5.53 g, yield: quantitative | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C11H12N2O6S
